Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Cipro / metronidazole
 
Attending: ___
 
Chief Complaint:
abd pain/diarrhea
 
Major Surgical or Invasive Procedure:
Flexible sigmoidoscopy

 
History of Present Illness:
___ yo M with a history of UC s/p total colectomy and IPAA who
presents with abdominal pain and diarrhea. Patient with a 
history
of c-diff with steroid dependence which ultimately required
colectomy in ___ with rectal sparing per his report. He
ultimately had proctectomy and j-pouch construction followed by
an ileostomy takedown. They were all performed by Dr. ___ 
at
___, ___ and ___. Pt was an inmate at the
time. Subsequently his history has been notable for small bowel
obstruction ___ adhesions in ___ requiring surgery and 
pouchitis
which has occurred about 6 times. He does not have a
gastroenterologist and has not had any evaluation of his pouch 
in
the past. 

A month ago, he presented to ___ with significant lower
abdominal cramps and diarrhea. A CT perfomed there showed
possible bowel obstruction and he was referred to ___ for
surgical evaluation. He was seen by colorectal surgery and no
clinical or radiographic bowel obstruction was identified. He 
was
prescribed a 2 week course of augmentin and discharged. Pt
reports improvement of his symptoms on the antibiotics. 

On ___ morning, pt reports waking up with significant
cramping in the lower abdomen. He had associated fecal urgency
and said he had multiple BM's throughout the day. Pt also 
reports
shaking chills in the morning though no fevers. He presented
again to ___. A CT there showed similar findings to his
last presentation, so he was transferred again to ___. Pt seen
by colorectal surgery who again did not believe he was 
clinically
or radiographically obstructed. He was admitted to medicine for
GI evaluation. 

On arrival to the floor, pt reports associated nausea, no
vomiting. Lower abdominal cramping pain. Says stools were yellow
and non-blood. No fevers, + chills, but no sweats. 

 
Past Medical History:
h/o ulcerative colitis
Hepatitis C likely from tattoo 
Thyroid Nodule
chronic back pain ___ MVA
Attention deficit disorder
 
Social History:
___
Family History:
No first degree relatives with GI illness or malignancy.
 
Physical Exam:
Discharge exam:
98.9 PO 104 / 56 L Lying 51 18 100 RA 

GEN - NAD, looks much more comfortable
HEENT - NCAT
NECK - supple, no lad
CV - rrr, no r/m/g
RESP - clear b/l
ABD - soft, nt/nd (notably improved), +bs
EXT - no edema
SKIN - multiple tattoos, healed scars in mid abdomen
NEURO - alert and oriented x 3, no focal deficits
PSYCH - calm

 
Pertinent Results:
___ 06:49AM BLOOD WBC-4.7 RBC-4.25* Hgb-12.7* Hct-40.5 
MCV-95 MCH-29.9 MCHC-31.4* RDW-13.5 RDWSD-47.8* Plt ___
___ 06:35AM BLOOD ALT-42* AST-33 AlkPhos-48 TotBili-0.9
___ 10:10AM BLOOD CRP-15.7*
 
Brief Hospital Course:
___ yo M with history of UC s/p total colectomy and IPAA, prior
SBO s/p LOA, and clinical history of pouchitis who presents with
lower abdominal cramping and diarrhea. Patient with similar
presentation a month ago and says that his current symptoms are
similar to what has been managed as pouchitis in the past. Hx of
c diff, but negative here. On flex sig pouch was normal 
eliminating pouchitis. 

By this point had been on rifaximin for a day and already was 
feeling better. We felt this was most consistent with small 
bowel overgrowth syndrome given history of responding nicely to 
antibiotics and response to date. 

By the time of discharge he felt much better and was eating 
large amounts and diarrhea had almost resolved.

Unfortunately had difficulty getting rifaximin approved so 
discharged him on Augmentin instead. 

Also switch in insurance meant he could no longer see his prior 
PCP. identified a new gastroenterologist in community.

Weight - large 20lb weight loss in last few months. Vitamin B12 
was low and zinc is pending. 

Only other issue during hospitalization was back pain. Chronic 
issue. Because of point tenderness on spine, obtained spine 
x-ray. Encouraged him to be as active as possible. 

TRANSITIONAL ISSUES:
- follow-up Zinc level - ___
- Follow weight closely
- Have asked him to continue antibiotics through GI appointment. 
Then it can be stopped. He may need a second course
- If possible switch to rifaximin given better efficacy 
- Treatment of Hep C. Did not check viral loads or image liver 
and this would obviously be needed as outpatient.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. dextroamphetamine-amphetamine 30 mg oral BID 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tab by mouth 
twice a day Disp #*42 Tablet Refills:*1 
2.  Cyanocobalamin 250 mcg PO DAILY 
RX *cyanocobalamin (vitamin B-12) 1,000 mcg 1 capsule(s) by 
mouth once a day Disp #*30 Capsule Refills:*3 
3.  Multivitamins 1 TAB PO DAILY  
4.  dextroamphetamine-amphetamine 30 mg oral BID 
RX *dextroamphetamine-amphetamine 30 mg 1 tablet(s) by mouth 
twice a day Disp #*60 Tablet Refills:*5 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Ulcerative colitis
small bowel intestinal overgrowth 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Followup Instructions:
___